### PR TITLE
[Merged by Bors] - feat(Analysis/SpecialFunctions/Integrals): add `∫ x : ℝ in a..b, (c ^ 2 + x ^ 2)⁻¹`

### PR DESCRIPTION
**Pull request by michelsol**
Add a new integral `∫ x : ℝ in a..b, (c ^ 2 + x ^ 2)⁻¹ = c⁻¹ * (arctan (b / c) - arctan (a / c))`
This integral came up while proving a computation of zeta(2). (Chapter 8 from the book)
In my opinion, it looks general enough to be in mathlib, and provides the convenience of avoiding a change of variables.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Integrals/Basic.lean [hunk 1]
```diff
@@ -353,6 +353,14 @@ theorem integral_one_div_one_add_sq :
 theorem integral_inv_one_add_sq : (∫ x : ℝ in a..b, (↑1 + x ^ 2)⁻¹) = arctan b - arctan a := by
   simp only [← one_div, integral_one_div_one_add_sq]
 
+@[simp]
+theorem integral_inv_sq_add_sq {c : ℝ} (hc : c ≠ 0) :
+    ∫ x : ℝ in a..b, (c ^ 2 + x ^ 2)⁻¹ = c⁻¹ * (arctan (b / c) - arctan (a / c)) := calc
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Integrals/Basic.lean:358]: This version avoids the need for `c ≠ 0`, but in the proof you of course split into cases. If you want, you can add both lemmas.
```suggestion
    c * ∫ x : ℝ in a..b, (c ^ 2 + x ^ 2)⁻¹ = (arctan (b / c) - arctan (a / c)) := calc
```

Comment (michelsol) [reply Mathlib/Analysis/SpecialFunctions/Integrals/Basic.lean:358]: OK. As integrals of basic functions in that file seem to generally start with `∫`, I added 
```lean4
theorem integral_div_sq_add_sq {c : ℝ} :
    ∫ x : ℝ in a..b, c / (c ^ 2 + x ^ 2) = arctan (b / c) - arctan (a / c)
```

**Comment by michelsol** [comment]
-awaiting-author

File: Mathlib/Analysis/SpecialFunctions/Integrals/Basic.lean [hunk 2]
```diff
@@ -353,6 +353,23 @@ theorem integral_one_div_one_add_sq :
...
+  _ = ∫ x : ℝ in a..b, (c ^ 2)⁻¹ * (1 + (x / c) ^ 2)⁻¹ := by field_simp
+  _ = _ := by
+    simp [integral_comp_div (fun x => (c ^ 2)⁻¹ * (1 + x ^ 2)⁻¹) hc]
+    field_simp
+
+theorem integral_div_sq_add_sq {c : ℝ} :
+    ∫ x : ℝ in a..b, c / (c ^ 2 + x ^ 2) = arctan (b / c) - arctan (a / c) := calc
```
Comment (tb65536) [inline Mathlib/Analysis/SpecialFunctions/Integrals/Basic.lean:365]: Minor, but I would have expected `x ^ 2 + c ^ 2` rather than `c ^ 2 + x ^ 2`.

Comment (j-loreaux) [reply Mathlib/Analysis/SpecialFunctions/Integrals/Basic.lean:365]: I disagree, given that we have [integral_one_div_one_add_sq](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/SpecialFunctions/Integrals/Basic.html#integral_one_div_one_add_sq) and [integral_inv_one_add_sq](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/SpecialFunctions/Integrals/Basic.html#integral_inv_one_add_sq)

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge
